US07820680B2
Step 6: 1-{[4-(4-fluorobenzyl)-3-oxopiperazin-1-yl]carbonyl}-3-methyl-1H-imidazol-3-ium iodide
To a solution of 1-(4-fluorobenzyl)-4-(1H-imidazol-1-ylcarbonyl)piperazin-2-one (2.49 g, 8.2 mmol) in 20 mL of anhydrous MeCN, under an atmosphere of nitrogen, was added iodomethane (2.05 mL, 32.9 mmol). The reaction was covered in aluminum foil and stirred at room temperature overnight. The reaction was concentrated under vacuum, co-evaporated with toluene under vacuum, followed by drying under high vacuum to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ 9.59 (s, 1H), 8.02 (s, 1H), 7.84 (s, 1H), 7.36 (dd, J=8.4, 5.7 Hz, 2H), 7.19 (t, J=8.7 Hz, 2H), 4.56 (s, 2H), 4.23 (s, 2H), 3.91 (s, 3H), 3.77 (bs, 2H), 3.40 (t, J=5.2 Hz, 2H). ES MS (M)=317.

reactant | 1-(4-fluorobenzyl)-4-(1H-imidazol-1-ylcarbonyl)piperazin-2-one | 8.2 mmol, 2.49 g | FC1=CC=C(CN2C(CN(CC2)C(=O)N2C=NC=C2)=O)C=C1 | C15H15FN4O2
reactant | iodomethane | 32.9 mmol, 2.05 mL | IC | CH3I
solvent | MeCN | 20 mL | CC#N | C2H3N
solvent | aluminum | [Al] | Al
product | 1-{[4-(4-fluorobenzyl)-3-oxopiperazin-1-yl]carbonyl}-3-methyl-1H-imidazol-3-ium iodide | [I-].FC1=CC=C(CN2C(CN(CC2)C(=O)N2C=[N+](C=C2)C)=O)C=C1 | InChI=1S/C16H18FN4O2.HI/c1-18-6-7-21(12-18)16(23)20-9-8-19(15(22)11-20)10-13-2-4-14(17)5-3-13;/h2-7,12H,8-11H2,1H3;1H/q+1;/p-1
